US07074801B1
5 g of 4-bromo-2-fluoro-1-methoxymethoxybenzene was dissolved in 50 mL anhydrous tetrahydrofuran, and 13.4 mL n-butyl lithium (1.59 M hexane solution) was added dropwise thereto at −70° C. After the mixture was stirred for 1 hour, 2.1 ml dimethyl sulfide was added dropwise thereto and stirred at −70° C. for 1 hour, and after the temperature of the reaction solution was raised to 0° C., the solution was stirred for 1 hour. An aqueous saturated ammonium chloride solution was added thereto, the mixture was stirred for 30 minutes, and water added to the mixture which was then extracted with ethyl acetate. The extract was dried over sodium sulfate and purified by silica gel chromatography (hexane/ethyl acetate) to give 3.67 g of 2-fluoro-1-methoxymethoxy-4-methylsulfanyl benzene. 4 mL solution of 4 N hydrogen chloride in ethyl acetate was added to this reaction product and left for 1 hour. Water was added to the product which was then extracted with ethyl acetate and purified by silica gel chromatography (hexane/ethyl acetate) to give 1.01 g of the title compound as a colorless oil.

reactant | 4-bromo-2-fluoro-1-methoxymethoxybenzene | 5 g | BrC1=CC(=C(C=C1)OCOC)F | C8H8BrFO2
reactant | n-butyl lithium | 1.59 M, 13.4 mL | C(CCC)[Li]
reactant | dimethyl sulfide | 2.1 ml | CSC | C2H6S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-fluoro-1-methoxymethoxy-4-methylsulfanyl benzene | 3.67 g | FC1=C(C=CC(=C1)SC)OCOC | C9H11FO2S
